*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4514-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL4514-102_freq port1 port2 PARAMS: Cpar=0.28pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=0.08
+ C= {Cpar}
+ K1=0.0003
+ K2=0.31
+ K3= {Ind}
+ K4=0.018
+ K5=0.000009
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5074.02318
.ends PFL4514-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4514-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL4514-102_imp port1 port2 PARAMS: Cpar=0.24pF Ind=1uH
X1 port1 port2 Model1D PARAMS:
+ R1=50
+ R2=0.08
+ C= {Cpar}
+ K1=0.0003
+ K2=0.31
+ K3= {Ind}
+ K4=0.018
+ K5=0.000009
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5074.02318
.ends PFL4514-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4514-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL4514-222_freq port1 port2 PARAMS: Cpar=0.22pF Ind=2.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=0.115
+ C= {Cpar}
+ K1=0.0018
+ K2=0.69
+ K3= {Ind}
+ K4=0.05
+ K5=0.000008
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9908.19065
.ends PFL4514-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4514-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL4514-222_imp port1 port2 PARAMS: Cpar=0.182pF Ind=2.2uH
X1 port1 port2 Model1D PARAMS:
+ R1=50
+ R2=0.115
+ C= {Cpar}
+ K1=0.0018
+ K2=0.69
+ K3= {Ind}
+ K4=0.05
+ K5=0.000008
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9908.19065
.ends PFL4514-222_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4514-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL4514-472_freq port1 port2 PARAMS: Cpar=0.26pF Ind=4.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=0.22
+ C= {Cpar}
+ K1=0.0005
+ K2=1.3
+ K3= {Ind}
+ K4=0.1
+ K5=0.0000096
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15345.3012
.ends PFL4514-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4514-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL4514-472_imp port1 port2 PARAMS: Cpar=0.22pF Ind=4.7uH
X1 port1 port2 Model1D PARAMS:
+ R1=50
+ R2=0.22
+ C= {Cpar}
+ K1=0.0005
+ K2=1.3
+ K3= {Ind}
+ K4=0.1
+ K5=0.0000096
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15345.3012
.ends PFL4514-472_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4514-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL4514-682_freq port1 port2 PARAMS: Cpar=0.24pF Ind=6.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=0.4
+ C= {Cpar}
+ K1=0.0005
+ K2=2
+ K3= {Ind}
+ K4=0.18
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=22243.1615
.ends PFL4514-682_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4514-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL4514-682_imp port1 port2 PARAMS: Cpar=0.195pF Ind=6.8uH
X1 port1 port2 Model1D PARAMS:
+ R1=50
+ R2=0.4
+ C= {Cpar}
+ K1=0.0005
+ K2=2
+ K3= {Ind}
+ K4=0.18
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=22243.1615
.ends PFL4514-682_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4514-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL4514-103_freq port1 port2 PARAMS: Cpar=0.175pF Ind=10uH
X1 port1 port2 Model1A PARAMS:
+ R1=75
+ R2=0.68
+ C= {Cpar}
+ K1=0.005
+ K2=2.1
+ K3= {Ind}
+ K4=0.11
+ K5=0.00000645
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=22188.7902
.ends PFL4514-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4514-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL4514-103_imp port1 port2 PARAMS: Cpar=0.162pF Ind=10uH
X1 port1 port2 Model1D PARAMS:
+ R1=75
+ R2=0.68
+ C= {Cpar}
+ K1=0.005
+ K2=2.1
+ K3= {Ind}
+ K4=0.11
+ K5=0.00000645
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=22188.7902
.ends PFL4514-103_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4514-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL4514-153_freq port1 port2 PARAMS: Cpar=0.21pF Ind=15uH
X1 port1 port2 Model1A PARAMS:
+ R1=75
+ R2=1.14
+ C= {Cpar}
+ K1=0.0009
+ K2=3.5
+ K3= {Ind}
+ K4=0.06
+ K5=0.0000087
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=32082.4532
.ends PFL4514-153_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4514-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL4514-153_imp port1 port2 PARAMS: Cpar=0.204pF Ind=15uH
X1 port1 port2 Model1D PARAMS:
+ R1=75
+ R2=1.14
+ C= {Cpar}
+ K1=0.0009
+ K2=3.5
+ K3= {Ind}
+ K4=0.06
+ K5=0.0000087
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=32082.4532
.ends PFL4514-153_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4514-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL4514-223_freq port1 port2 PARAMS: Cpar=0.23pF Ind=22uH
X1 port1 port2 Model1A PARAMS:
+ R1=75
+ R2=2.33
+ C= {Cpar}
+ K1=0.0008
+ K2=6.1
+ K3= {Ind}
+ K4=0.3
+ K5=0.00000978
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=50053.1761
.ends PFL4514-223_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4514-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL4514-223_imp port1 port2 PARAMS: Cpar=0.209pF Ind=22uH
X1 port1 port2 Model1D PARAMS:
+ R1=75
+ R2=2.33
+ C= {Cpar}
+ K1=0.0008
+ K2=6.1
+ K3= {Ind}
+ K4=0.3
+ K5=0.00000978
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=50053.1761
.ends PFL4514-223_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
